datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],134.641
[O:0][O:1].[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]12>>[O:0]([O:1])[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]12,-4.3741628
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[S:3][H:9])([H:4])[H:5].[H:10]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[S:3]([H:9])[H:10],25.7316
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:8])([H:5])([H:6])[H:7],19.0372
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:22])([H:23])[H:24])=[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:11]([C:9]([C:8]([H:19])([H:20])[H:21])[C:10]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])([H:3])[H:4],20.92
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])([H:11])([H:12])[H:13]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],79.8307
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:3])[H:4],51.003
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[c:14]1([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:20].[c:14]1[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25],128.457
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:8])([H:6])[H:7],26.8613
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16])[H:3],0.0
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[S:6]([S:7][H:9])[H:8]>>[C:0](=[C:1]([S:2][H:8])[H:5])([H:3])[H:4].[S:6][S:7][H:9],-1.6736
[Cl:4].[O:0]([O:1][H:3])[H:2]>>[H:2][Cl:4].[O:0][O:1][H:3],8.14818
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[N:11]([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][N:11]([H:12])[H:13],35.702072
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])[H:18])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],112.801
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][O:38][O:39],199.11656
[C:0](=[C:1]=[C:2][H:4])[H:3].[H:5]>>[C:0](=[C:1]=[C:2][H:4])([H:3])[H:5],0.0
[N:0]([N:1]([H:3])[H:4])[H:2].[O:5]>>[H:3][O:5].[N:0](=[N:1][H:4])[H:2],-2.7196
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],35.1456
